US07235581B2
c) (RS)-2-Oxo-1-[4-(4-trifluoromethyl-benzyloxy)-phenyl]-pyrrolidine-3-carboxylic Acid
The title compound is prepared in analogy to Example 3c) from 4-(4-trifluoromethyl-benzyloxy)-phenylamine and 6,6-dimethyl-5,7-dioxa-spiro[2,5]octane-4,8-dione. Yield: 37% of a colorless solid. MS: m/e=380.1 (M+H)+.

reactant | 4-(4-trifluoromethyl-benzyloxy)-phenylamine | FC(C1=CC=C(COC2=CC=C(C=C2)N)C=C1)(F)F | C14H12F3NO
reactant | 6,6-dimethyl-5,7-dioxa-spiro[2,5]octane-4,8-dione | CC1(OC(C2(CC2)C(O1)=O)=O)C | C8H10O4
product | (RS)-2-Oxo-1-[4-(4-trifluoromethyl-benzyloxy)-phenyl]-pyrrolidine-3-carboxylic Acid | O=C1N(CCC1C(=O)O)C1=CC=C(C=C1)OCC1=CC=C(C=C1)C(F)(F)F | C19H16F3NO4
